US08492559B2
Stage 1: tert-Butyloxycarbonyl-4-cyano-4-(dimethylamino)piperidine
500 ml (10 eq.) dimethylamine solution and 109.9 g (5 eq.) dimethylamine hydrochloride were added to a solution of 50 g (1 eq.) tert-butyloxycarbonyl-4-oxopiperidine in 100 ml methanol and the mixture was cooled to 5° C. 5 ml (0.1 eq.) hydrochloric acid were then added dropwise to the reaction mixture over a period of 10 min and the mixture was stirred for 60 min at room temperature. 48.9 g (3 eq.) potassium cyanide were added in portions to this reaction mixture and the mixture was stirred for 24 h at room temperature. The reaction course was monitored by thin-layer chromatography (50% EtOAc/hexane). Once the conversion was complete, 150 ml water were added to the reaction mixture and it was extracted 3 times with 100 ml ethyl acetate. The combined organic phases were dried with Na2SO4. Following removal of the solvent under reduced pressure, crude product was obtained which was recrystallized out of hexane. 57 g (90%) of product were obtained in the form of a colorless solid.

reactant | dimethylamine | 500 ml, 10 eq. | CNC | C2H7N
reactant | dimethylamine hydrochloride | 109.9 g, 5 eq. | Cl.CNC
reactant | tert-butyloxycarbonyl-4-oxopiperidine | 50 g, 1 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | hydrochloric acid | 5 ml, 0.1 eq. | Cl | ClH
reactant | potassium cyanide | 48.9 g, 3 eq. | [C-]#N.[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | tert-Butyloxycarbonyl-4-cyano-4-(dimethylamino)piperidine | 57 g, 90% | C(C)(C)(C)OC(=O)N1CCC(CC1)(N(C)C)C#N | C13H23N3O2
